* D:\spacesystem\HW1\Scaling_circuit.asc
XU1 V- V+ N003 opamp Aol=100K GBW=10Meg
VREF N002 0 5
Vin N005 0 3.5
R1 V- N001 750
R2 N003 V- 825
R2* V+ 0 825
R1* V+ N005 750
XU2 N001 N004 N001 opamp Aol=100K GBW=10Meg
Rd1 N002 N004 10k
rd2 N004 0 1k
C1 OUT 0 47n
R3 OUT N003 4k7
.lib opamp.sub
* .tran 0 10 0
* .dc Vin 0.5 3.6 100m
* Saturates <-0V3,3V6>
.noise V(OUT) Vin lin 100 1 100k
.backanno
.end
